US06683184B2
1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dinitrophenyl)piperazine
Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate and 1-(3,5-dinitrophenyl)piperazine were reacted by the same way with the example 36 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=CC=C2N=C1NC(OC1=CC=CC=C1)=O | C16H13N3O3
reactant | 1-(3,5-dinitrophenyl)piperazine | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])N1CCNCC1 | C10H12N4O4
product | 1-[(2-Methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dinitrophenyl)piperazine | yield: 54.5% | COC1=NC2=CC=CC=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C20H19N7O6
